US07452893B2
Step 2: Butyl cis-4-(hydroxymethyl)cyclohexanecarboxylate
To a solution of crude cis-4-(butoxycarbonyl)cyclohexanecarboxylic acid (36.5 g) in dry tetrahydrofuran (300 ml) under nitrogen cooled in an ice-bath was added dropwise over 20 minutes 1.0M borane in tetrahydrofuran (150 ml, 150 mmol). The ice-bath was removed and the solution was stirred at ambient temperature for three hours. Water (200 ml) was added dropwise to the stirred solution, the mixture stirred an additional 15 minutes, and potassium carbonate (7.5 g) was added. The mixture was diluted with ether (500 ml) and the layers were separated. The organic layer was washed with brine (100 ml), dried (sodium sulfate), filtered, and the solvent was evaporated under reduced pressure to give crude product (32.38 g) as a pale yellow oil. The crude product was purified by flash column chromatography on silica gel, eluting with ethyl acetate/hexane (10:90 increasing to 50:50). The first compound to elute was dibutyl cis-cyclohexane-1,4-dicarboxylate (MS.: 285.3 (M+1), 3.92 g, 10%), followed by butyl cis-4-(hydroxymethyl)-cyclohexane carboxylate (23.97 g, 75%), as a pale yellow oil: 1H NMR (CDCl3) 4.08 (2H, t, J 7 Hz), 3.50 (1H, t, J 7 Hz), 2.56 (1H, m), 2.02 (2H, m), 1.52-1.65 (7H, m), 1.26-1.41 (5H, m), 0.94 (3H, t, J 7 Hz). MS.: 215.3 (M+1).

reactant | cis-4-(butoxycarbonyl)cyclohexanecarboxylic acid | 36.5 g | C(CCC)OC(=O)[C@H]1CC[C@H](CC1)C(=O)O | C12H20O4
reactant | borane | 1.0M | B | BH3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mmol, 150 ml | O1CCCC1 | C4H8O
product | Butyl cis-4-(hydroxymethyl)cyclohexanecarboxylate | 32.38 g | OC[C@H]1CC[C@H](CC1)C(=O)OCCCC | C12H22O3
